US07674789B2
3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-5-fluoro-N,4-dimethylbenzamide
To the solution of 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]-amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-5-fluoro-4-methylbenzoic acid (25 mg, 0.05 mmol) in CH2Cl2 (2 mL) were added methylamine (2.0 M soln. in THF, 0.13 mL, 0.26 mmol), triethylamine (0.05 mL, 0.36 mmol) and HBTU (20 mg, 0.053 mmol). The reaction mixture was stirred over night. The reaction mixture was concentrated. Separation via a HPLC with TFA followed by treatment with t-amino SPE cartridge then provided the title compound as a white solid (14 mg, 54%). LC-MS m/z 514 (M+H)+; 1H-NMR (MeOD) δ 2.24 (s, 3H), 2.78 (s, 6H), 2.94 (s, 3H), 3.15 (m, 2H), 3.55 (m, 2H), 4.22 (s, 2H), 7.18 (m, 2H), 7.56 (m, 2H), 7.39 (m, 1H).

reactant | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]-amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-5-fluoro-4-methylbenzoic acid | 0.05 mmol, 25 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)O)C=C(C2C)F)NCCN(C)C)=O | C24H23F3N6O3
reactant | methylamine | 0.26 mmol, 2.0 M, 0.13 mL | CN | CH5N
reactant | triethylamine | 0.36 mmol, 0.05 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.053 mmol, 20 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-5-fluoro-N,4-dimethylbenzamide | 14 mg, 54% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC)C=C(C2C)F)NCCN(C)C)=O | C25H26F3N7O2
